US04298529
70% Perchloric acid (0.54 ml) was added to a solution of 7-(2-methoxyimino-3,3-diethoxy-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 1 g) in methyl isobutyl ketone (4 ml) under ice-cooling, and stirred at the same temperature for 20 minutes. Water (4 ml) was added to the resultant mixture and stirred for 5 minutes. The precipiates were collected by filtration, washed with water and dried over phosphorus pentachloride in vacuo to give 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 502 mg).

reactant | Perchloric acid | 0.54 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | 7-(2-methoxyimino-3,3-diethoxy-4-bromobutyramido)-3-cephem-4-carboxylic acid | 1 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)(OCC)OCC | C16H22BrN3O7S
reactant | Water | 4 ml | O | H2O
solvent | methyl isobutyl ketone | 4 ml | C(C(C)C)C(=O)C | C6H12O
product | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 502 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
